US07629375B2
Preparation of 4-[2-(3,4-Bis-methoxymethoxy-phenyl)-vinyl]-benzoic Acid
To a solution of 4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-benzoic acid ethyl ester (1.0 mmol) in MeOH (20 mL) was added 10% NaOH solution (3 eq). The resulting suspension was vigorously stirred for 8 h at room temperature. The mixture was then quenched by adding saturated NaH2PO4 (50 mL). The mixture was extracted with EtOAc (3×50 mL) and the combined organic layers were dried over Na2SO4. The crude product was purified on a short silica gel column.

reactant | 4-[2-(3,4-bis-methoxymethoxy-phenyl)-vinyl]-benzoic acid ethyl ester | 1.0 mmol | C(C)OC(C1=CC=C(C=C1)C=CC1=CC(=C(C=C1)OCOC)OCOC)=O | C21H24O6
reactant | NaOH | 3 eq | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[2-(3,4-Bis-methoxymethoxy-phenyl)-vinyl]-benzoic Acid | COCOC=1C=C(C=CC1OCOC)C=CC1=CC=C(C(=O)O)C=C1 | C19H20O6
